US04960946
A solution of 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one (30.0 g, 0.14 mol) in methanol (150 mL) was placed in a thick walled bottle. Palladium on charcoal (5%, 2.0 g) was added and the mixture was shaken under 53.5 psi of hydrogen. When the theoretical amount of hydrogen had been consumed, workup yielded 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-one as a mixture of two diastereoisomers bp0.5 104-107~C (27.6 g, ratio 69:93.1); NMR(CDC13)δ1.0(d,3H), 1.1(s,6H), 1.3-1.5(m,6H), 1.6-2.0(m,4H), 2.2-2.4(m,2H),3.1(s,3H). IR(neat) 2970, 2925, 1720, 1360, 1090 cm-1 ; MS(m/e) 41, 73, 124, 147, 165, 180, 197.

reactant | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohex-5-en-1-one | 0.14 mol, 30.0 g | COC(CCC1CC(C=C(C1)C)=O)(C)C | C13H22O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Palladium on charcoal | 2.0 g | [Pd] | Pd
product | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-one | COC(CCC1CC(CC(C1)C)=O)(C)C | C13H24O2
